US08404859B2
Preparation of 3-Chloro-5-hydroxymethyl-thiophene-2-carboxylic acid methyl ester
A mixture of 5-Bromomethyl-3-chloro-thiophene-2-carboxylic acid methyl ester (3.8 g, 14.1 mmol) and NaHCO3 (20 g, 238 mmol) in DMSO (100 ml) was heated at 115° C. for 4 h. The reaction mixture was cooled. The reaction mixture was diluted with water and extracted with DCM (3×100 mL), washed with brine, dried over sodium sulfate, filtered and evaporated. The residue was purified by column (0-30% EtOAc in hexane) to give 1.30 g (45%) product.

reactant | 5-Bromomethyl-3-chloro-thiophene-2-carboxylic acid methyl ester | 14.1 mmol, 3.8 g | COC(=O)C=1SC(=CC1Cl)CBr | C7H6BrClO2S
reactant | NaHCO3 | 238 mmol, 20 g | C(=O)(O)[O-].[Na+]
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-Chloro-5-hydroxymethyl-thiophene-2-carboxylic acid methyl ester | 1.30 g, 45% | COC(=O)C=1SC(=CC1Cl)CO | C7H7ClO3S
